US05691369
A stirred solution of 1-phenylmethyleneamino-3-(4-iodobutyl)-2-imidazolidinone (10.0 g, 0.0269 mole), dimethylformamide (150 ml) and 1-methylpiperazine (6.0 ml, 3.4 g, 0.0539 mole) is heated to reflux. Reflux is maintained for 2.5 hours. The solution is concentrated under reduced pressure to a semi-solid residue. This residue is dissolved in CHCl3 (300 ml), then washed with saturated NaHC3 solution. (3×400 ml), H2O (2×100 ml) and dried over MgSO4. The filtered solution is concentrated under reduced pressure to an oily residue. This residue is triturated in hexane (300 ml) by stirring. The solid is collected and air-dried to give 8.0 g (0.0233 mole) of 1-phenylmethyleneamino-3-[4-(4-methyl-1-piperazinyl)butyl]-2-imidazolidinone.

reactant | 1-phenylmethyleneamino-3-(4-iodobutyl)-2-imidazolidinone | 0.0269 mole, 10.0 g | C1(=CC=CC=C1)C=NN1C(N(CC1)CCCCI)=O | C14H18IN3O
reactant | 1-methylpiperazine | 0.0539 mole, 6.0 ml, 3.4 g | CN1CCNCC1 | C5H12N2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-phenylmethyleneamino-3-[4-(4-methyl-1-piperazinyl)butyl]-2-imidazolidinone | 0.0233 mole, 8.0 g | C1(=CC=CC=C1)C=NN1C(N(CC1)CCCCN1CCN(CC1)C)=O | C19H29N5O
